US06686384B2
b) 2-(2,6-Dichlorophenylamino)-5-fluorobenzimidazole hydrochloride
1-(2-Amino-5-fluorophenyl)-3-(2,6-dichlorophenyl)-thiourea was dissolved in ethanol and treated with 8 equivalents of methyl iodide. The mixture was heated to reflux for 6 h. The solvent was distilled off, the residue was treated with water, then the mixture was rendered weakly alkaline by addition of saturated aqueous sodium hydrogencarbonate solution, and extracted. After distilling off the solvent, the residue was purified by column chromatography on silica gel using a mixture of methylene chloride and methanol (10:1). After distilling off the solvent under reduced pressure, the residue was dissolved using EA, and the solution was treated with excess ethereal hydrochloric acid. The mixture was stirred at RT for approximately 30 minutes, and the crystalline substance was filtered off and recrystallized from a mixture of EA and ethanol. Colorless crystalline product, m.p.: 294-296 ° C.

reactant | 1-(2-Amino-5-fluorophenyl)-3-(2,6-dichlorophenyl)-thiourea | NC1=C(C=C(C=C1)F)NC(=S)NC1=C(C=CC=C1Cl)Cl | C13H10Cl2FN3S
reactant | methyl iodide | 8 equivalents | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | 2-(2,6-Dichlorophenylamino)-5-fluorobenzimidazole hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC=1NC2=C(N1)C=CC(=C2)F | InChI=1S/C13H8Cl2FN3.ClH/c14-8-2-1-3-9(15)12(8)19-13-17-10-5-4-7(16)6-11(10)18-13;/h1-6H,(H2,17,18,19);1H
